US04988689
A mixture of 11.3 parts of N-(hexahydro-1H-azepin-4-yl)-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine (E)-2-butenedioate(2:3), hemihydrate, 10.6 parts of sodium carbonate and 120 parts of methanol was stirred for 30 minutes at reflux temperature. After cooling to 30° C., gaseous oxirane was bubbled during 2 hours through the mixture. The reaction mixture was evaporated and the residue was stirred in dichloromethane. The precipitate was filtered off over diatomaceous earth and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (90:9:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in 2-propanone. The salt was filtered off and crystallized from a mixture of 2-propanone and ethanol. The product was filtered off and dried, yielding 0.7 parts (6.3%) of hexahydro-4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1H-azepine-1-ethanol ethanedioate(1:2); mp. 155.8° C. (compound 211).

reactant | N-(hexahydro-1H-azepin-4-yl)-1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-amine (E)-2-butenedioate | C(\C=C\C(=O)O)(=O)O.N1CCC(CCC1)NC1=NC2=C(N1CC=1OC(=CC1)C)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | hexahydro-4-[[1-[(5-methyl-2-furanyl)methyl]-1H-benzimidazol-2-yl]amino]-1H-azepine-1-ethanol ethanedioate | 6.3% | C(C(=O)O)(=O)O.CC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CCC2)CCO | InChI=1S/C21H28N4O2.C2H2O4/c1-16-8-9-18(27-16)15-25-20-7-3-2-6-19(20)23-21(25)22-17-5-4-11-24(12-10-17)13-14-26;3-1(4)2(5)6/h2-3,6-9,17,26H,4-5,10-15H2,1H3,(H,22,23);(H,3,4)(H,5,6)
